US04294960
Mesyl chloride (0.406 g.) was dropwise added to a stirred mixture of 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-hydroxycepham-4-carboxylate (syn isomer, 1 g.), N,N-dimethylformamide (10 ml.) and potassium carbonate (0.732 g.) at 0° to 5° C. over 2 minutes, and the solution was stirred at room temperature for 2.5 hours. After ethyl acetate and water were added to the resultant solution, the solution was extracted with ethyl acetate. The remaining aqueous layer was extracted again with ethyl acetate. The ethyl acetate extract solution was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel (30 g.) and eluted with a mixture of chloroform and ethyl acetate. The eluate was concentrated under reduced pressure to give 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyimino-acetamido]-3-cephem-4-carboxylate (syn isomer, 0.12 g.), mp 224° C. (dec.).

reactant | Mesyl chloride | 0.406 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-hydroxycepham-4-carboxylate | 1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H20N6O9S2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.732 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyimino-acetamido]-3-cephem-4-carboxylate | 0.12 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H18N6O8S2
